US04585788
Reaction of methyl 6,11-dihydrodibenz[b,e]oxepin-2-acetate and potassium hydroxide in ethanol by the method described in Example 1c provides 6,11-dihydrodibenz[b,e]oxepin-2-acetic acid, m.p. 155°-157°.

reactant | methyl 6,11-dihydrodibenz[b,e]oxepin-2-acetate | C1=C(C=CC=2OCC3=C(CC21)C=CC=C3)CC(=O)OC | C17H16O3
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 6,11-dihydrodibenz[b,e]oxepin-2-acetic acid | C1=C(C=CC=2OCC3=C(CC21)C=CC=C3)CC(=O)O | C16H14O3
